US04242518
Using the method described in Example 14(c), 2.47 parts of 3-acetylamino-2-benzoyldihydrothiophene, on reaction with 0.66 parts of sulfuryl chloride for one hour at 0° C., give 2.0 parts of 3-acetylamino-2-benzoylthiophen (82% of theory) of melting point 93°-95° C.

reactant | 3-acetylamino-2-benzoyldihydrothiophene | C(C)(=O)NC1C(SC=C1)C(C1=CC=CC=C1)=O | C13H13NO2S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 3-acetylamino-2-benzoylthiophen | 82% | C(C)(=O)NC1=C(SC=C1)C(C1=CC=CC=C1)=O | C13H11NO2S
